US04954520
(±) Methyl 2-undeca-1E,3E-dienyl-1,3-dioxolane-4-butanoate
Methyl 5,6-dihydroxyhexanoate (0.32 g, 2.0 mmol), 2E,4E-dodecadienal and catalytic pyridinium p-toluenesulfonate (PPTS) were refluxed in 10 ml of benzene for 39 hours with a Dean-Stark trap. Molecular sieves were added after 19 hours. The reaction mixture was cooled, filtered and concentrated. Flash chromatography on silica gel with 25:1 hexane/ethyl acetate as eluent gave the product (0.10 g, 0.31 mmol), 15%.

reactant | Methyl 5,6-dihydroxyhexanoate | 2.0 mmol, 0.32 g | OC(CCCC(=O)OC)CO | C7H14O4
reactant | 2E,4E-dodecadienal | C(\C=C\C=C\CCCCCCC)=O | C12H20O
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (±) Methyl 2-undeca-1E,3E-dienyl-1,3-dioxolane-4-butanoate | 0.31 mmol, 0.10 g | C(=C\C=C\CCCCCCC)/C1OCC(O1)CCCC(=O)OC | C19H32O4
